US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)CC(=O)N1CCOCC1
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)CC(=O)N1CCOCC1 | InChI=1S/C28H32ClN5O5S2.ClH/c1-18-12-24-25(16-30-18)40-27(31-24)28(36)34-7-6-33(17-22(34)15-26(35)32-8-10-39-11-9-32)41(37,38)23-5-3-19-13-21(29)4-2-20(19)14-23;/h2-5,13-14,18,22,30H,6-12,15-17H2,1H3;1H
